US09056873B2
Step A: tert-Butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-7-fluoro-3-oxo-4-(thieno[2,3-c]pyridin-2-yl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
A solution of tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (200 mg, 0.401 mmol), 2-(tributylstannyl)thieno[2,3-c]pyridine (510 mg, 1.202 mmol) and tetrakis(triphenylphosphine)palladium(0) (463 mg, 0.401 mmol) in toluene (3 mL) was heated to 120° C. via microwave irradiation for 30 minutes. The reaction mixture was diluted with EtOAc (50 mL) and saturated aqueous NaHCO3 (100 mL). The organic layer was separated and the aqueous layer was washed with EtOAc (50 mL). The organic layers were combined, dried over Na2SO4, and the solvent was removed in vacuo. The crude product was purified by silica gel column chromatography, eluting with a gradient of 5-50% EtOAc and hexane over a period of 120 minutes. The fractions were collected to give the title compound (135 mg, 56%).

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.401 mmol, 200 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C23H32ClFN4O5
reactant | 2-(tributylstannyl)thieno[2,3-c]pyridine | 1.202 mmol, 510 mg | C(CCC)[Sn](C1=CC=2C(=CN=CC2)S1)(CCCC)CCCC
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.401 mmol, 463 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-7-fluoro-3-oxo-4-(thieno[2,3-c]pyridin-2-yl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 135 mg, 56% | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC=3C(=CN=CC3)S1)C(N(C2)C(=O)OC(C)(C)C)=O)F | C30H36FN5O5S
